US08420807B2
Dibenzo[b,f][1,4]thiazepin-11-ylamine hydrochloride
A solution of gaseous HCl in i-PrOH (5.7 g, 31 wt-%) was added dropwise under stirring to a solution of dibenzo[b,f][1,4]thiazepin-11-ylamine (10.6 g) dissolved in a isopropanol/tert-butyl methyl ether (TBME) mixture (150 ml/120 ml). Stirring was continued for 1 h and the formed precipitate was filtered off, washed with tert-butyl methyl ether (TBME) and dried on air to obtain the desired compound as a colorless solid (11.2 g, 91%).

reactant | HCl | Cl | ClH
reactant | dibenzo[b,f][1,4]thiazepin-11-ylamine | 10.6 g | C1=CC=CC2=C1C(=NC1=C(S2)C=CC=C1)N | C13H10N2S
solvent | i-PrOH | 5.7 g | CC(C)O | C3H8O
solvent | isopropanol tert-butyl methyl ether | 150 ml | C(C)(C)O.COC(C)(C)C
product | Dibenzo[b,f][1,4]thiazepin-11-ylamine hydrochloride | 11.2 g, 91% | Cl.C1=CC=CC2=C1C(=NC1=C(S2)C=CC=C1)N | InChI=1S/C13H10N2S.ClH/c14-13-9-5-1-3-7-11(9)16-12-8-4-2-6-10(12)15-13;/h1-8H,(H2,14,15);1H
